US07943622B2
Step 4. Synthesis of tert-butyl 4-(5-(benzylcarbamoyl)-4-methyloxazol-2-yl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate
Lithium hydroxide (56 mg, 1.3 mmol) was added to a solution of ethyl 2-(4-(tert-butoxycarbonyl)-2-((pyridin-3-yloxy)methyl)piperazin-1-yl)-4-methyloxazole-5-carboxylate (200 mg, 0.448 mmol) in THF (2 mL), MeOH (2 mL), and water (1 mL). After 3 h, 2.5 mL of the reaction mixture was removed and acidified to pH ˜3 with 1 N aqueous HCl. This was diluted with water (15 mL) and extracted with EtOAc (3×30 mL). The combined extracts were dried over Na2SO4, filtered, and concentrated under reduced pressure. The resulting yellow oil was dissolved in DMF (3 mL) and benzylamine (0.027 mL, 0.246 mmol), triethylamine (0.094 mL, 0.672 mmol) and TBTU (108 mg, 0.336 mmol) were added. After 14 h, the reaction mixture was concentrated under reduced pressure and purified by HPLC (5 to 95% MeCN/0.1% TFA in H2O/0.1% TFA gradient). This gave the title compound as a brown solid. LC-MS: RT=7.79 min, [M+H]+=508.9.

reactant | Lithium hydroxide | 1.3 mmol, 56 mg | [OH-].[Li+]
reactant | ethyl 2-(4-(tert-butoxycarbonyl)-2-((pyridin-3-yloxy)methyl)piperazin-1-yl)-4-methyloxazole-5-carboxylate | 0.448 mmol, 200 mg | C(C)(C)(C)OC(=O)N1CC(N(CC1)C=1OC(=C(N1)C)C(=O)OCC)COC=1C=NC=CC1 | C22H30N4O6
reactant | benzylamine | 0.246 mmol, 0.027 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | triethylamine | 0.672 mmol, 0.094 mL | C(C)N(CC)CC | C6H15N
reactant | TBTU | 0.336 mmol, 108 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | MeOH | 2 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | tert-butyl 4-(5-(benzylcarbamoyl)-4-methyloxazol-2-yl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(O1)N1C(CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1)C | C27H33N5O5
